US05342846
1-Cyclopropyl-6-fluoro-7-[4-(1,2,3-triazol-1-yl)piperidin -1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
A mixture of ethyl 1-cyclopropyl-6-fluoro-7-[4-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (135 mg, 0.32 mmol) and 6N-HCl (6 ml) was heated at 110° C. for 18 hrs. The reaction mixture was concentrated and the residue was diluted with water. The pH of the suspension was adjusted to 7 by addition of NH4OH and this separated solid was filtered, washed with water, CH3CN and dried to give 60 mg of title product. m.p. 246°-248° C.; 1H NMR (TFA) δ: 9.25 (s, 1H), 8.65 (s, 1H), 8.52 (s, 1H), 8.25 (d, 1H), 5.35 (m, 3H), 4.12 (m, 1H), 3.75 (m, 2H), 2.40-2.85 (m, 4H), 1.25-1.70 (m, 4H).

reactant | ethyl 1-cyclopropyl-6-fluoro-7-[4-(1,2,3-triazol-1-yl)piperidin-1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 0.32 mmol, 135 mg | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCC(CC1)N1N=NC=C1)F)=O)C(=O)OCC | C21H23FN6O3
reactant | HCl | 6 ml | Cl | ClH
product | 1-Cyclopropyl-6-fluoro-7-[4-(1,2,3-triazol-1-yl)piperidin -1-yl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 60 mg | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCC(CC1)N1N=NC=C1)F)=O)C(=O)O | C19H19FN6O3
